US04608375
A solution of 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-4-thioxo-3,4-dihydro-2(1H)-quinazolinone (1.2 g) in chloroform (25 ml) and 20% ammonia in methanol (30 ml) was heated in an autoclave for 15 hours at 100° C. The reaction mixture was concentrated in vacuo and the residue was purified by subjecting to a column chromatography on silica gel using 5% methanol in chloroform for elution to give an oily residue. This oily residue was dissolved in methanol and this solution was acidified with conc.hydrochloric acid solution and then concentrated in vacuo to give a crystal of the object compound, which was recrystallized twice from a mixture of water and isoporpyl alcohol to give 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-4-amino-2(1H)-quinazolinone.2HCl.H2O (0.6 g).

reactant | 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-4-thioxo-3,4-dihydro-2(1H)-quinazolinone | 1.2 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC(C2=CC=CC=C12)=S)=O)C1=CC=CC=C1 | C28H30N4OS
reactant | ammonia | N | H3N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 30 ml | CO | CH4O
product | 1-[3-{4-(diphenylmethyl)piperazin-1-yl}propyl]-4-amino-2(1H)-quinazolinone | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(N=C(C2=CC=CC=C12)N)=O)C1=CC=CC=C1 | C28H31N5O
